US04132726
Two hundred milligrams (0.78 mmol) of 3-acetoxy-5-t-butyldimethylsiloxycyclopent-1-ene was dissolved in 1.0 milliliter of a methanol solution of 1 normal barium hydroxide, after which the resulting solution was heated under reflux for 15 minutes in an atmosphere of nitrogen. The methanol was then distilled off under reduced pressure, after which ethanol was added to precipitate a solid, which was filtered off. Ehtanol was then distilled off from the filtrate, after which the concentrated residue was extracted with ether after addition of water thereto. The resulting organic layer was then thoroughly washed in water, dried with anhydrous sodium sulfate and thereafter concentrated to obtain a crude product. The so obtained product was then separated by preparative thin-layer chromatography (silica gel 2mm, hexane:ethyl acetate = 4:1) to obtain 75 milligrams (0.35 mmol, 45%) of 3-t-butyldimethylsiloxy-5-hydroxycyclopent-1-ene.

reactant | 3-acetoxy-5-t-butyldimethylsiloxycyclopent-1-ene | 0.78 mmol, Two hundred milligrams | C(C)(=O)OC1C=CC(C1)O[Si](C)(C)C(C)(C)C | C13H24O3Si
solvent | methanol | 1.0 milliliter | CO | CH4O
solvent | barium hydroxide | [OH-].[Ba+2].[OH-]
product | 3-t-butyldimethylsiloxy-5-hydroxycyclopent-1-ene | 0.35 mmol, 75 milligrams, 45% | O([Si](C)(C)C(C)(C)C)C1C=CC(C1)O | C11H22O2Si
